US06514971B1
Diethyl azodicarboxylate (349 μl 2.2 mmol) was added dropwise to a suspension of 4-chloro-7-hydroxycinnnoline (200 mg, 1.1 mmol), triphenylphosphine (580 mg, 2.2 mmol) and 2-methoxyethanol (105 μl, 1.3 mmol) in methylene chloride (6 ml) cooled at 10° C. The mixture was stirred for 30 minutes and further triphenylphosphine (145 mg), 2-methoxyethanol (20 μl) and diethyl azodicarboxylate (88 μl) were added. The mixture was then allowed to warm to ambient temperature and stirred for 30 minutes. The volatiles were removed by evaporation and the residue was purified by column chromatography eluting with ethyl acetate/petroleum ether (7/3) and followed by column chromatography eluting with cyclohexane/ethyl acetate 35/65 to give 4-chloro-7-(2-methoxyethoxy)cinnoline (158 mg, 60%).

reactant | Diethyl azodicarboxylate | 2.2 mmol, 349 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 2.2 mmol, 580 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-methoxyethanol | 1.3 mmol, 105 μl | COCCO | C3H8O2
reactant | triphenylphosphine | 145 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-methoxyethanol | 20 μl | COCCO | C3H8O2
reactant | diethyl azodicarboxylate | 88 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
product | 4-chloro-7-(2-methoxyethoxy)cinnoline | 158 mg, 60% | ClC1=CN=NC2=CC(=CC=C12)OCCOC | C11H11ClN2O2
